US04173478
Preparation of N-[4-methoxy-3-(6-methyl-1H-pyrazolo[3,2-c]-s-triazol-3-yl)phenyl]-2-hydroxy-5-(4-methoxyphenylazo)benzamide (Dye 13)
N-[3-(1-Acetyl-6-methyl-1H-pyrazolo[3,2-c]-s-triazol-3-yl)-4-methoxyphenyl]-2-hydroxy-5-(4-methoxyphenylazo) benzamide (1.4 g) was dissolved in methanol (100 ml) and a solution of sodium hydroxide (1.0 g) in water (30 ml) added. After stirring for 15 minutes the solution was acidified with glacial acetic acid when a gelatinous precipitate of the product appeared. This was removed by filtration, washed with water and crystallized in aqueous pyridine (850 mg; 66%), m.p. 295°-6°, λmax (methanol)=350 nm.

reactant | N-[3-(1-Acetyl-6-methyl-1H-pyrazolo[3,2-c]-s-triazol-3-yl)-4-methoxyphenyl]-2-hydroxy-5-(4-methoxyphenylazo) benzamide | 1.4 g | C(C)(=O)N1N=C(N2C1=CC(=N2)C)C=2C=C(C=CC2OC)NC(C2=C(C=CC(=C2)N=NC2=CC=C(C=C2)OC)O)=O | C28H25N7O5
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | N-[4-methoxy-3-(6-methyl-1H-pyrazolo[3,2-c]-s-triazol-3-yl)phenyl]-2-hydroxy-5-(4-methoxyphenylazo)benzamide | COC1=C(C=C(C=C1)NC(C1=C(C=CC(=C1)N=NC1=CC=C(C=C1)OC)O)=O)C=1N2C(NN1)=CC(=N2)C | C26H23N7O4
